US07511033B2
4-(3-Bromo-phenyl)-7-dimethylamino-8-trifluoromethyl-1,3-dihydro-benzo[b][1,4]diazepin-2-one
) The title compound was prepared from the above described {2-[3-(3-bromo-phenyl)-3-oxo-propionylamino]-5-dimethylamino-4-trifluoromethyl-phenyl}-carbamic acid tert-butyl ester (2.2 g, 4.04 mmol) and TFA (15 mL) in DCM (45 mL) according to general procedure I step 2. Obtained as an off-white solid (1.61 g, 93%). MS (ISP) 426.0 [(M+H)+]; mp 193° C. (dec).

reactant | {2-[3-(3-bromo-phenyl)-3-oxo-propionylamino]-5-dimethylamino-4-trifluoromethyl-phenyl}-carbamic acid tert-butyl ester | 4.04 mmol, 2.2 g | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)N(C)C)C(F)(F)F)NC(CC(=O)C1=CC(=CC=C1)Br)=O)=O | C23H25BrF3N3O4
reactant | TFA | 15 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 45 mL | C(Cl)Cl | CH2Cl2
product | 4-(3-Bromo-phenyl)-7-dimethylamino-8-trifluoromethyl-1,3-dihydro-benzo[b][1,4]diazepin-2-one | BrC=1C=C(C=CC1)C1=NC2=C(NC(C1)=O)C=C(C(=C2)N(C)C)C(F)(F)F | C18H15BrF3N3O
